US08283353B2
4′-({4-[trans-4-(2-{[tert-butyl(dimethyl)silyl]oxy}-3-oxopropoxy)cyclohexyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile
A mixture of 4′-[(4-{trans-4-[(2-hydroxybut-3-en-1-yl)oxy]cyclohexyl}-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile (0.43 g), 2,6-lutidine (0.18 mL), tert-butyl(dimethyl)silyl trifluoromethanesulfonate (0.36 mL) and tetrahydrofuran (5 mL) was stirred at room temperature for 24 hr. The reaction mixture was added to 1 M hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated sodium hydrogen carbonate and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue obtained by purification by silica gel column chromatography was mixed with sodium periodate (0.85 g), acetone (10 mL), acetonitrile (10 mL), water (10 mL) and osmium tetraoxide (0.14 g, 7% immobilized catalyst), and the mixture was stirred at room temperature for 40 hr. The precipitate was filtered off, and the filtrate was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give the title compound as a colorless solid (0.43 g, 83%).

reactant | 4′-[(4-{trans-4-[(2-hydroxybut-3-en-1-yl)oxy]cyclohexyl}-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile | 0.43 g | OC(CO[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2)C=C | C32H35N5O3
reactant | 2,6-lutidine | 0.18 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | tert-butyl(dimethyl)silyl trifluoromethanesulfonate | 0.36 mL | FC(S(=O)(=O)O[Si](C)(C)C(C)(C)C)(F)F | C7H15F3O3SSi
reactant | hydrochloric acid | 1 M | Cl | ClH
reactant | sodium periodate | 0.85 g | I(=O)(=O)(=O)[O-].[Na+]
catalyst | osmium tetraoxide | 0.14 g | [Os](=O)(=O)(=O)=O
solvent | water | 10 mL | O | H2O
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | acetone | 10 mL | CC(=O)C | C3H6O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 4′-({4-[trans-4-(2-{[tert-butyl(dimethyl)silyl]oxy}-3-oxopropoxy)cyclohexyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 0.43 g, 83% | [Si](C)(C)(C(C)(C)C)OC(CO[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2)C=O | C37H47N5O4Si
